US07091353B2
2-(2,6-Dioxo-piperidin-3-yl)-4-pentylamino-isoindole-1,3-dione I-51
To a stirred solution of 3-pentylamino-phthalic acid (2.51 g, 10 mmol) in acetic acid (50 ml) was added 3-amino-piperidine-2,6-dione hydrochloride (1.81 g, 11 mmol). The reaction mixture was heated to reflux overnight. The solvent was evaporated in vacuo and the residue dissolved in ethyl acetate (100 ml). The ethyl acetate mixture was washed with water (2×100 ml), saturated aqueous sodium bicarbonate (2×100 ml), brine (1×100 ml), and dried (MgSO4). The solvent was evaporated in vacuo and the solid residue was purified by chromatography (25% ethyl acetate/hexane) to give 1.82 g (53%) of product as a yellow solid: mp 141–143° C.; 1H NMR (DMSO-d6) d 11.09 (s, 1H), 7.58 (t, J=8.3 Hz, 1H), 7.08 (d, J=8.6 Hz, 1H), 7.02 (d, J=7.0 Hz, 1H), 6.519 (t, J=5.7 Hz, 1H), 5.06 (dd, J=5.3 and 12.4 Hz, 1H), 3.32–3.25 (m, 2H), 2.97–2.82 (m, 1H), 2.62–2.46 (m, 2H), 2.06–2.01 (m, 1H), 1.61–1.55 (m, 2H), 1.35–1.32 (m, 4H), 0.88 (t, J=6.7 Hz, 3H); 13C NMR (DMSO-d6) d 172.72, 170.01, 168.92, 167.25, 146.39, 136.21, 132.14, 117.08, 110.31, 108.99, 48.52, 41.77, 30.94, 28.46, 28.33, 22.12, 21.82, 13.85; Anal. Calcd. For C18H21N3O4: C, 62.96; H, 6.16; N, 12.24. Found: C, 62.92; H, 6.17; N, 12.15.

reactant | 3-pentylamino-phthalic acid | 10 mmol, 2.51 g | C(CCCC)NC1=C(C(C(=O)O)=CC=C1)C(=O)O | C13H17NO4
reactant | 3-amino-piperidine-2,6-dione hydrochloride | 11 mmol, 1.81 g | Cl.NC1C(NC(CC1)=O)=O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-(2,6-Dioxo-piperidin-3-yl)-4-pentylamino-isoindole-1,3-dione | 1.82 g, 53% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NCCCCC)=O)=O | C18H21N3O4
